US09085539B2
Synthesis of N-methyl-4-[5-(hydroxymethyl)-5-methyl-4-oxo-2-thioxo-3-[3-(trifluoromethyl)-4-cyanophenyl]imidazolidin-1-yl]-2-fluorobenzamide 1.2.2(3).
BBr3 (53 mkl, 0.55 mmol) was added dropwise to solution of N-methyl-4-[5-methyl-5-(methoxymethyl)-4-oxo-2-thioxo-3-[3-(trifluoromethyl)-4-cyanophenyl]imidazolidin-1-yl]-2-fluorobenzamide (55 mg, 0.11 mmol) in CH2Cl2 (1.5 ml) in argon atmosphere at −78° C. The reaction mixture was stirred at −78° C. for 3 h and then for another 3 h at room temperature. After the reaction was completed the excess of BBr3 was neutralized by addition of 5% Na2CO3 solution (10 ml), the product was extracted with AcOEt, dried over Na2SO4, evaporated in vacuo, and by HPLC method N-methyl-4-[5-(hydroxymethyl)-5-methyl-4-oxo-2-thioxo-3-[3-(trifluoromethyl)-4-cyanophenyl]imidazolidin-1-yl]-2-fluorobenzamide 1.2.2(3) was isolated, Ki1.2.2(3)=46.3 nM, 1H NMR (DMSO-d6, 400 MHz): 8.43 (br. m, 1H), 8.39 (d, J=8.4 Hz, 1H), 8.13 (s, 1H), 7.98 (d, J=8.4 Hz, 1H), 7.78 (t, J=8.0 Hz, 1H), 7.42 (d, J=10.8 Hz, 1H), 7.37 (d, J=8.0 Hz, 1H), 5.93 (t, J=4.4 Hz, 1H), 3.81 (dd, J1=11.6 Hz, J2=4.4 Hz, 1H), 3.45 (dd, J1=11.6 Hz, J2=5.0 Hz, 1H), 2.79 (d, J=4.0 Hz, 3H), 1.38 (s, 3H).

reactant | BBr3 | 0.55 mmol | B(Br)(Br)Br | BBr3
reactant | N-methyl-4-[5-methyl-5-(methoxymethyl)-4-oxo-2-thioxo-3-[3-(trifluoromethyl)-4-cyanophenyl]imidazolidin-1-yl]-2-fluorobenzamide | 0.11 mmol, 55 mg | CNC(C1=C(C=C(C=C1)N1C(N(C(C1(COC)C)=O)C1=CC(=C(C=C1)C#N)C(F)(F)F)=S)F)=O | C22H18F4N4O3S
reactant | Na2CO3 | 10 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | CH2Cl2 | 1.5 ml | C(Cl)Cl | CH2Cl2
product | N-methyl-4-[5-(hydroxymethyl)-5-methyl-4-oxo-2-thioxo-3-[3-(trifluoromethyl)-4-cyanophenyl]imidazolidin-1-yl]-2-fluorobenzamide | CNC(C1=C(C=C(C=C1)N1C(N(C(C1(C)CO)=O)C1=CC(=C(C=C1)C#N)C(F)(F)F)=S)F)=O | C21H16F4N4O3S
